US09353107B2
Step-iv: 5-(3-fluoro-4-(piperidin-4-yl)phenyl)-3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(2-fluoro-4-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate (82 mg, 0.145 mmol) was deprotected in methanol/HCl in dioxane (5/5 mL) to afford 8.2 mg (12.2% yield) of the titled compound after purification by preparative TLC using 8% methanol in chloroform as eluent. 1H NMR (CD3OD, 300 MHz): δ 8.448-8.442 (d, 1H), 8.098-8.091 (d, 1H), 7.839-7.837 (d, 1H), 7.73 (s, 1H), 7.54 (s, 1H), 7.48-7.38 (m, 3H), 7.26-7.12 (m, 5H), 7.44-7.41 (t, 2H), 3.37-3.31 (m, 1H), 3.19-3.15 (t, 3H), 3.03-2.93 (td, 2H), 1.97-1.88 (m, 5H). MS: m/z=466.5 (M+1), HPLC: 98.63% in method A.

reactant | tert-butyl 4-(2-fluoro-4-(3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 0.145 mmol, 82 mg | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CCC2=CC=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C34H36FN5O2
solvent | methanol HCl | CO.Cl
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-(3-fluoro-4-(piperidin-4-yl)phenyl)-3-(1-phenethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 8.2 mg, 12.2% yield | FC=1C=C(C=CC1C1CCNCC1)C=1C=C2C(=NC1)NC=C2C=2C=NN(C2)CCC2=CC=CC=C2 | C29H28FN5
